US07943609B2
A 250-mL, round-bottomed flask, under an atmosphere of N2, was charged with sodium hydride (60% oil dispersion, 772 mg, 19.3 mmol). The sodium hydride was washed with 3 portions of hexanes to remove the oil and then 8 mL of anhydrous DMF was added followed by benzyl bromide (3.38 mL, 28.4 mmol). The solution was cooled to 0° C. and then a solution of methyl N-trityl-L-threoninate (4.83 g, 12.9 mmol) dissolved in 12 mL of DMF was added dropwise via cannula over 5 minutes. After stirring for 2 hours, the reaction mixture was treated with saturated aqueous Na2CO3 solution and 200 mL of Et2O and the layers were separated. The organic portion was washed successively with H2O (5×100 mL) and brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 5-10% ethyl acetate/hexanes) gave 4.61 g of methyl O-benzyl-N-trityl-L-threoninate as a colorless syrup.

reactant | sodium hydride | 19.3 mmol, 772 mg | [H-].[Na+]
reactant | benzyl bromide | 28.4 mmol, 3.38 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl N-trityl-L-threoninate | 12.9 mmol, 4.83 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]([C@H](O)C)C(=O)OC | C24H25NO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | methyl O-benzyl-N-trityl-L-threoninate | 4.61 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC)C | C31H31NO3
